US07449460B2
Following the procedure of Example 11, a mixture of 150 mg (0.37 mmol) of 7-fluoro-6-methoxy-4-[4-(pyridin-2-ylsulfanyl)-phenylamino]-quinoline-3-carbonitrile, 287 mg (1.86 mmol) of 4-(1-pyrrolidinylpiperidine) are refluxed in 1-methyl 2-pyrrolidinone (1 mL) at 105° C. for 12 hours to yield the crude product. Purification by silica gel chromatography (95:5 methylene chloride/methanol) gives 107 mg of 6-methoxy-4-[4-(pyridin-2-ylsulfanyl)-phenylamino]-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile as a yellow solid, mp 182-184° C.

reactant | 7-fluoro-6-methoxy-4-[4-(pyridin-2-ylsulfanyl)-phenylamino]-quinoline-3-carbonitrile | 0.37 mmol, 150 mg | FC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C(C=C1)SC1=NC=CC=C1)OC | C22H15FN4OS
reactant | 1-methyl 2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 6-methoxy-4-[4-(pyridin-2-ylsulfanyl)-phenylamino]-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile | 107 mg | COC=1C=C2C(=C(C=NC2=CC1N1CCC(CC1)N1CCCC1)C#N)NC1=CC=C(C=C1)SC1=NC=CC=C1 | C31H32N6OS
